* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5003.asc
* Generated by LTspice 24.1.9 for Windows.
C1 OUT1 0 47µ
L1 N001 OUT1 2.2µ Rser=50m
R8 N007 N008 43.2K
Rload1 OUT1 0 1
R3 N008 0 52.3K
R4 N003 N002 1.8K
C3 N002 0 22n
R1 N005 0 180K
C2 OUT2 0 10µ
Rload2 OUT2 0 2
V1 IN 0 10
C4 0 N004 1µ
C6 0 N010 1µ
C7 0 N009 1µ
V2 N006 0 5.5
C5 N003 0 22p
X§U1 0 OUT1 IN IN 0 0 N004 OUT1 OUT2 N006 N001 OUT2 0 N009 IN N010 N008 N007 N004 NC_01 N003 N005 ADP5003
.tran 4m startup
.lib ADP5003.sub
.backanno
.end
