* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5050.asc
* Generated by LTspice 24.1.9 for Windows.
R1 IN N002 10K
R2 N002 0 10K
C1 N001 N003 0.1µ
C2 OUT 0 8.12µ
L1 N003 OUT 2.2µ
R4 OUT N009 34.8K
R5 N009 0 23.2K
R6 N010 0 22K
C3 N007 0 1µ
R7 N011 0 31.6K
C4 N005 N004 2.2n
R3 N004 0 1.82K
R8 N007 N008 10K
C5 OUT N009 47p
M1 N003 N006 0 0 BSC080N03MS
X§U1 N011 N007 N007 N002 IN N001 N003 N006 N010 N005 N008 0 MP_01 MP_02 N007 ADP5050_chan1_2
Rload OUT 0 2
V1 IN 0 12
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 3m startup
* SS12 Configuration is correct for channel 1 \nwhen NOT paralleled with channel 2
* Rlim is the resistor generally placed on DL pin to set current limit
.lib ADP5050_chan1_2.sub
.backanno
.end
