* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5070.asc
* Generated by LTspice 24.1.9 for Windows.
R2 N003 0 137k
R1 OUT1 N003 2.43Meg
R6 N011 0 10k
C5 N010 N011 68n
L1 N001 N002 6.8µ Rser=40m
D1 N002 OUT1 MBRS140
C1 OUT1 0 10µ
Rload1 OUT1 0 200
C4 N009 0 1µ
V1 IN 0 5
R5 N008 N009 118k
R4 OUT2 N008 2.32Meg
L2 N006 0 15µ Rser=80m
D2 OUT2 N006 MBRS140
C3 OUT2 0 10µ
Rload2 OUT2 0 200
R3 N005 0 12k
C2 N004 N005 47n
C7 N012 0 1µ
R7 N007 0 268K
V2 EN2 0 0
V3 EN1 0 PWL(0 0 +2m 0 +10u 5)
X§U2 IN N006 N002 0 IN EN2 NC_01 0 EN1 NC_02 N007 N003 N010 N008 N009 N004 N001 N012 N012 IN ADP5070
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 10m startup
.lib ADP5070.sub
.backanno
.end
