* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5071.asc
* Generated by LTspice 24.1.9 for Windows.
R2 N003 0 137k
R1 OUT1 N003 2.43Meg
R6 N012 0 6.8k
C5 N011 N012 47n
L1 N001 N002 4.7µ Rser=40m
D1 N002 OUT1 MBRS140
C1 OUT1 0 10µ
Rload1 OUT1 0 100
C4 N010 0 1µ
C6 N007 0 1µ
V1 IN 0 5
R5 N008 N010 118k
R4 OUT2 N008 2.32Meg
L2 N006 0 6.8µ Rser=40m
D2 OUT2 N006 MBRS140
C3 OUT2 0 10µ
Rload2 OUT2 0 100
R3 N005 0 5.6k
C2 N004 N005 47n
X§U1 IN N006 N002 0 IN IN 0 0 IN NC_01 N009 N003 N011 N008 N010 N004 0 N001 IN N007 ADP5071
R7 N009 0 268K
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 10m startup
.lib ADP5071.sub
.backanno
.end
