* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5073.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N004 N005 15.8k
R2 OUT N004 115k
R4 N003 N002 49.9k
C1 N002 0 2n
R3 N006 N007 10k
L1 N001 0 4.7µ
D1 OUT N001 MBRS140
C2 OUT 0 12µ
Rload OUT 0 200
C3 0 N006 1µ
C4 0 N005 1µ
V1 IN 0 5
C5 N003 0 15p
X§U1 0 IN N005 IN N001 IN N003 N004 NC_01 0 N006 NC_02 N007 ADP5073 CS=151.83m Ron=220m IQ=2.5m
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 4.5m startup
.lib ADP5073.sub
.backanno
.end
