* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5076.asc
* Generated by LTspice 24.1.9 for Windows.
R2 N002 0 137K
R1 OUT1 N002 2.43Meg
R6 N010 0 61.9K
C5 N009 N010 2.2n
L1 IN N001 3.3µ
D1 N001 OUT1 MBRS340
C1 OUT1 0 10µ
C4 N008 0 1µ
V1 IN 0 5
R5 N007 N008 118K
R4 OUT2 N007 2.32Meg
L2 N005 0 6.8µ
D2 OUT2 N005 MBRS340
C3 OUT2 0 10µ
R3 N004 0 120K
C2 N003 N004 1n
R7 N006 0 268K
R9 OUT2 0 300
R8 OUT1 0 300
X§U2 IN N005 N001 0 IN IN IN 0 IN NC_01 N006 N002 N009 N007 N008 N003 NC_02 ADP5076
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 5m 0.1m startup
.lib ADP5076.sub
.backanno
.end
