* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP7104.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PWL(0 0 20u 4.3)
Rload OUT 0 12
C1 OUT 0 2.2µ Rser=3m
R1 OUT N002 17.4k
R2 N002 0 10K
R3 OUT N001 100k
X§U1 IN N002 IN N001 OUT 0 ADP7104
.tran 3m startup
.lib ADP7104.sub
.backanno
.end
