* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP7105.asc
* Generated by LTspice 24.1.9 for Windows.
C2 N002 0 2.7n
V1 IN 0 4.3
Rload OUT 0 11
C1 OUT 0 2.2µ Rser=3m
R1 OUT N003 17.4k
R2 N003 0 10K
R3 OUT N001 100k
X§U1 IN N003 IN N002 OUT 0 N001 ADP7105 Vref=1.22
.tran 6m startup
.lib ADP7105.sub
.backanno
.end
