* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP7185.asc
* Generated by LTspice 24.1.9 for Windows.
C2 OUT 0 4.7µ
V1 IN 0 -3.8
V2 N001 0 1.5
RLOAD OUT 0 5
X§U1 OUT OUT N002 N003 N001 0 N004 IN ADP7185
C1 N002 N003 10n
C3 N002 0 1µ
C4 N004 0 1µ
R1 N002 N003 100k
R2 N003 0 24.9k
.tran 20m startup
.lib ADP7185.sub
.backanno
.end
