* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5050_chan1_2.asc
* Generated by LTspice 24.1.9 for Windows.
R1 IN N002 10K
R2 N002 0 10K
C1 N001 N003 0.1µ
C2 OUT 0 8.12µ
L1 N003 OUT 2.2µ
R4 OUT N010 34.8K
R5 N010 0 23.2K
R6 N006 0 22K
C3 N007 0 1µ
R7 N011 0 31.6K
C4 N005 N004 2.2n
R3 N004 0 1.82K
R8 N007 N008 10K
C5 OUT N010 47p
M1 N003 N006 0 0 BSC080N03MS
Rload OUT 0 2
V1 IN 0 12
C6 N014 N015 0.1µ
C7 OUT 0 8.12µ
L2 N015 OUT 2.2µ
C8 N017 0 1µ
R14 N020 0 31.6K
R16 N017 N018 10K
M2 N015 N016 0 0 BSC080N03MS
A1 N012 0 0 0 0 N013 N009 0 SCHMITT Vt=0.5 vh=8m Vhigh=5 Vlow=0
R9 N017 N019 600k
R10 N019 0 100K
R11 N016 0 22K
X§U3 N011 N009 N007 N002 IN N001 N003 N006 N010 N005 N008 0 MP_05 MP_06 N007 ADP5050_chan1_2
X§U4 N020 N013 N017 N002 IN N014 N015 N016 N010 N005 N018 0 MP_07 MP_08 N019 ADP5050_chan1_2
V3 N012 0 PULSE(0 5 0 10n 10n 833n 1.666u)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 3m startup
* The schematic simulates channels 1 and 2 in parallel.\nNotice how the SS12, COMP, and FB pins are configured\nThis is DIFFERENT then the real world.  Channels are synced\nto out of phase clocks in order to simulate their phase relationship.
.lib ADP5050_chan1_2.sub
.backanno
.end
