* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5050_chan3_4.asc
* Generated by LTspice 24.1.9 for Windows.
R1 IN N002 10K
R2 N002 0 10K
C1 N001 N003 100n
Cout OUT 0 8.12µ
L1 N003 OUT 2.2µ Rser=100m
R4 OUT N006 34.8K
R5 N006 0 23.2K
C3 N009 0 1µ
R7 N010 0 31.6K
C4 N005 N004 2.2n
R3 N004 0 1.82K
C5 OUT N006 47p
Rload OUT 0 1
R8 N008 N009 10K
V1 IN 0 12
C2 N013 N014 100n
Cout1 OUT 0 8.12µ
C6 N016 0 1µ
R13 N017 0 31.6K
R15 N015 N016 10K
A1 N011 0 0 0 0 N012 N007 0 SCHMITT Vt=0.5 vh=8m Vhigh=5 Vlow=0
L2 N014 OUT 2.2µ Rser=100m
X§U1 N010 N007 N009 N002 IN N001 N003 MP_05 N006 N005 N008 0 MP_06 MP_07 N009 ADP505x_chan3_4
X§U2 N017 N012 N016 N002 IN N013 N014 MP_08 N006 N005 N015 0 MP_09 MP_10 N016 ADP505x_chan3_4
V2 N011 0 PULSE(0 5 0 10n 10n 833n 1.666u)
.tran 2.5m startup
* The schematic simulates channels 3 and 4 in parallel.\nNotice how the CFG, COMP, and FB pins are configured\nThis is different than the real world.  Channels are synced\nto out of phase clocks in order to simulate their phase relationship.
.lib ADP505x_chan3_4.sub
.backanno
.end
