* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5053_chan1_2.asc
* Generated by LTspice 24.1.9 for Windows.
R1 IN N002 10K
R2 N002 0 10K
C1 N001 N003 0.1µ
C2 OUT 0 8.12µ
L1 N003 OUT 2.2µ
R4 OUT N009 34.8K
R5 N009 0 23.2K
R6 N011 0 22K
C3 N007 0 1µ
R7 N012 0 31.6K
C4 N005 N004 2.2n
R3 N004 0 1.82K
R8 N007 N008 10K
C5 OUT N009 47p
M1 N003 N006 0 0 BSC080N03MS
Rload OUT 0 2
V1 IN 0 12
C6 N015 N016 0.1µ
C7 OUT 0 8.12µ
L2 N016 OUT 2.2µ
R13 N020 0 22K
C8 N018 0 1µ
R14 N022 0 31.6K
R16 N018 N019 10K
M2 N016 N017 0 0 BSC080N03MS
A1 N013 0 0 0 0 N014 N010 0 SCHMITT Vt=0.5 vh=8m Vhigh=5 Vlow=0
R9 N018 N021 600k
R10 N021 0 100K
X§U1 N022 N014 N018 N002 IN N015 N016 N017 N009 N005 N019 0 N020 MP_05 N021 ADP505x_chan1_2
X§U2 N012 N010 N007 N002 IN N001 N003 N006 N009 N005 N008 0 N011 MP_06 N007 ADP505x_chan1_2
V2 N013 0 PULSE(0 5 0 10n 10n 833n 1.666u)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 3m startup
* The schematic simulates channels 1 and 2 in parallel.\nNotice how the SS12, COMP, and FB pins are configured\nThis is DIFFERENT than the real world.  Channels are synced\nto out of phase clocks in order to simulate their phase relationship.
* Rlim is the resistor generally placed on DL pin to set current limit
.lib ADP505x_chan1_2.sub
.backanno
.end
