* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADPL40502-2.8.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vIN 0 3.3
Rload vOUT 0 14
C1 vOUT 0 1µ Rser=1m
X§U1 vIN 0 vIN vOUT ADPL40502-2.8
.tran 1m startup
.lib ADPL40502-2.8.sub
.backanno
.end
