* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADPL42002-1.8.asc
* Generated by LTspice 24.1.9 for Windows.
C2 N001 0 4.7n
V1 IN 0 7
Rload OUT 0 9
C1 OUT 0 2.2µ Rser=1.5m
X§U1 IN OUT IN N001 OUT 0 ADPL42002-1.8
.tran 6m startup
.lib ADPL42002-1.8.sub
.backanno
.end
