* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADPL42005-1.8.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 3.3
Rload OUT 0 3.6
C1 OUT 0 2.2µ Rser=1.5m
R1 OUT N001 100k
X§U1 IN OUT IN N001 OUT 0 ADPL42005-1.8
.tran 3m startup
.lib ADPL42005-1.8.sub
.backanno
.end
