* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADPL26001.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N003 0 1µ
V1 IN 0 12
L1 IN N001 6.8µ Rser=.1
R1 OUT N002 1Meg
R2 N002 0 34.8K
C2 OUT N002 4.7p
C3 OUT 0 4.7µ Rser=10m
Rload OUT 0 355
D1 N001 OUT BAT46WJ
X§U1 N002 MP_01 N001 MP_02 0 IN N003 IN ADPL26001
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2m startup
.lib ADPL26001.sub
.backanno
.end
